US08106043B2
4-(3-Chloropropyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine:
A solution of 7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine (1.0 g, 5.10 mmol) and 1-chloro-3-iodopropane (1.075 mL, 10.19 mmol) in CH2Cl2 (10 mL) was treated with 50% NaOH solution (10 mL), followed by tetrabutylammonium bromide (0.082 g, 0.255 mmol) at room temperature. The resulting mixture was stirred overnight (16 hours) at room temperature and then refluxed for 4 hours. The reaction was brought to room temperature and diluted with water (50 mL), and the product was extracted into CH2Cl2 (3×25 mL). The combined CH2Cl2 layers were washed with brine (20 mL) and dried (Na2SO4). The solvent was evaporated, and the crude material was purified by column chromatography (1:4 to 2:3 EtOAc:hexanes) to obtain the title compound (0.65 g, 47%) as a solid. 1H NMR (CDCl3) δ 7.96 (d, 1H, J=2.7 Hz), 7.88 (dd, 1H, J=2.7, 9.3 Hz), 6.64 (d, 1H, J=9.3 Hz), 3.84-3.80 (m, 2H), 3.65-3.60 (m, 4H), 3.05-3.02 (m, 2H), 2.16-2.08 (m, 2H); ESI-MS (m/z, %): 273 (MH+, 100).

reactant | 7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 5.10 mmol, 1.0 g | [N+](=O)([O-])C=1C=CC2=C(SCCN2)C1 | C8H8N2O2S
reactant | 1-chloro-3-iodopropane | 10.19 mmol, 1.075 mL | ClCCCI | C3H6ClI
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrabutylammonium bromide | 0.255 mmol, 0.082 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 mL | O | H2O
product | 4-(3-Chloropropyl)-7-nitro-3,4-dihydro-2H-benzo[b][1,4]thiazine | 0.65 g, 47% | ClCCCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C11H13ClN2O2S
